US08957203B2
Step 2: Preparation of (S)-5-methylnon-8-en-3-yl 4-methylbenzenesulfonate
To a solution of (S)-5-methylnon-8-en-3-ol (9.5 g, 60.8 mmole) in DCM (100 mL) was added pyridine (20 mL) followed by DMAP (0.74 g, 6.08 mmole) and the solution was stirred for 10 min. p-Toluenesulfonyl chloride (17.39 g, 91 mmole) was added to the reaction mass at 0° C. The reaction mass was allowed to come to room temperature and stirred for overnight. Solvent was removed under reduced pressure and the residue was diluted with ethyl acetate (100 mL). The organic solution was washed with aqueous 1.5 N HCl solution, saturated bicarbonate solution, brine solution, dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound (15 g, 79%). The crude compound was taken to the next step without further purification. MS: MS m/z 328.4 (M++18).

reactant | (S)-5-methylnon-8-en-3-ol | 60.8 mmole, 9.5 g | CC(C[C@H](CC)O)CCC=C | C10H20O
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | p-Toluenesulfonyl chloride | 91 mmole, 17.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 6.08 mmole, 0.74 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-5-methylnon-8-en-3-yl 4-methylbenzenesulfonate | 15 g, 79% | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](CC)CC(CCC=C)C | C17H26O3S
